US07592373B2
4.29.a. 1-(2-chloro-4-nitrobenzyl)-4-methylpiperidine
1 g (4.85 mmol) of 2-chloro-4-nitrobenzylchloride is slowly added dropwise to 2 mL (16.22 mmol) of 4-methylpiperidine at ambient temperature and the mixture is stirred for 15 minutes. The reaction mixture is diluted with ethyl acetate and extracted twice with water. The organic phase is dried over sodium sulfate and evaporated down. Yield: 1.3 g (99.7% of theory); C13H17ClN2O2 (M=268.74); calc.: molecular ion peak (M+H)+: 269/271; found: molecular ion peak (M+H)+: 269/271; Rf value: 0.4 (Alox, petroleum ether).

reactant | 2-chloro-4-nitrobenzylchloride | 4.85 mmol, 1 g | ClC1=C(CCl)C=CC(=C1)[N+](=O)[O-] | C7H5Cl2NO2
reactant | 4-methylpiperidine | 16.22 mmol, 2 mL | CC1CCNCC1 | C6H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloro-4-nitrobenzyl)-4-methylpiperidine | ClC1=C(CN2CCC(CC2)C)C=CC(=C1)[N+](=O)[O-] | C13H17ClN2O2
